US06906058B2
1,1-Dioxo-3-butyl-3-ethyl-5-phenyl-7-methylthio-8-hydroxy-2,3,4,5-tetrahydro-1,5-benzothiazepine
To 1,1-dioxo-3-butyl-3-ethyl-5-phenyl-7-bromo-8-methoxy-2,3,4,5-tetrahydro-1,5-benzothiazepine (WO9616051; 600 mg, 1.29 mmol) were added DMF (5 ml) and sodium methanethiolate (450 mg, 6.42 mmol). The reaction was then heated to 60° C. for 1 hour. The oil bath was then heated to 120° C. for 4 hours. To quench the reaction, the temperature was lowered to room temperature and excess acetic acid was added quickly. The reaction was kept under a flow of nitrogen through sodium hypochlorite for 2 hours. Water and EtOAc were added and the aqueous phase was extracted three times with EtOAc. The combined organic phases were washed with water, dried and concentrated under reduced pressure. The residue was then purified by flash chromatography [DCM: EtOAc, 9:1] to give the title compound 0.5 g (92%). NMR (400 MHz) 0.65-0.8 (m, 6H), 0.95-1.6 (m, 8h), 3.1 (q, 2H), 3.6 (brq, 2H), 6.75 (s, 1H), 6.8 (t, 1H), 6.9 (d, 2H), 7.15 (t, 2H), 7.55 (s, 1H).

reactant | 1,1-dioxo-3-butyl-3-ethyl-5-phenyl-7-bromo-8-methoxy-2,3,4,5-tetrahydro-1,5-benzothiazepine | 1.29 mmol, 600 mg | O=S1(CC(CN(C2=C1C=C(C(=C2)Br)OC)C2=CC=CC=C2)(CC)CCCC)=O | C22H28BrNO3S
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
reactant | sodium methanethiolate | 6.42 mmol, 450 mg | C[S-].[Na+]
reactant | sodium hypochlorite | Cl[O-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1,1-Dioxo-3-butyl-3-ethyl-5-phenyl-7-methylthio-8-hydroxy-2,3,4,5-tetrahydro-1,5-benzothiazepine | 0.5 g, 92% | O=S1(CC(CN(C2=C1C=C(C(=C2)SC)O)C2=CC=CC=C2)(CC)CCCC)=O | C22H29NO3S2
